US04226775
1-[3-(4-Bromobenzoyl)propionyl]-L-proline methyl ester
The procedure of Example 28 is repeated, using 21.8 ml. of triethylamine in place of the diisopropylethylamine and using 27.3 g. of 3-(4bromobenzoyl)propionic acid, hydroxysuccinimide ester 13.0 g. of methylproline hydrochloride and 150 ml. of acetonitrile. The desired product is recovered as 16.6 g. of white crystals, m.p. 83°-85° C.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-(4bromobenzoyl)propionic acid | BrC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9BrO3
reactant | methylproline hydrochloride | Cl.CN1[C@H](C(=O)O)CCC1
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[3-(4-Bromobenzoyl)propionyl]-L-proline methyl ester | COC([C@H]1N(CCC1)C(CCC(C1=CC=C(C=C1)Br)=O)=O)=O | C16H18BrNO4
